US06521666B1
2,6-Dichlorobenzyl chloride (1.73 g) was added to a suspension of N-(tert-butoxycarbonyl)-3,4-dihydroxy-L-phenylalanine methyl ester (2.5 g), K2CO3 (2.22 g), and n-Bu4NI (0.297 g) in DMF (15 mL) at room temperature. The mixture was stirred overnight at room temperature, diluted with water and extracted with ether. The extract was dried (MgSO4) and evaporated. The residue was purified by column chromatography (silica gel; eluent: hexanes/CH2Cl2/EtOAc, 5:5:1) to yield N-(tert-butoxycarbonyl)-3,4-bis(2,6-dichlorobenzyloxy)-L-phenylalanine methyl ester (2.0 g), ESMS: m/z 630 (MH+), N-(tert-butoxycarbonyl)-3-(2,6-dichlorobenzyloxy) -4-hydroxy-L-phenylalanine methyl ester (0.39 g), ESMS: m/z 470 (MH+), and N-(tert-butoxycarbonyl)-4-(2,6-dichlorobenzyloxy)-3-hydroxy-L-phenylalanine methyl ester (0.45 g), ESMS: m/z 470 (MH+), respectively.

reactant | 2,6-Dichlorobenzyl chloride | 1.73 g | ClC1=C(CCl)C(=CC=C1)Cl | C7H5Cl3
reactant | N-(tert-butoxycarbonyl)-3,4-dihydroxy-L-phenylalanine methyl ester | 2.5 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=C(C=C1)O)O)=O | C15H21NO6
reactant | K2CO3 | 2.22 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | n-Bu4NI | 0.297 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(tert-butoxycarbonyl)-3,4-bis(2,6-dichlorobenzyloxy)-L-phenylalanine methyl ester | 2.0 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC(=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)OCC1=C(C=CC=C1Cl)Cl)=O | C29H29Cl4NO6
